US07030267B2
To a mixture of 2-ethylbutyraldehyde (2.0 mL, 16.2 mmol) and benzyl cyanoacetate (2.85 g, 16.2 mmol) at 0° C. was added acetic acid (0.1 mL, 1.62 mmol), then piperidine (0.16 mL, 1.62 mmol) dropwise. The ice bath was removed, and stirring continued for 10 minutes. Additional acetic acid (0.1 mL) and piperidine (0.16 mL) were added, followed by the additional of oven-dried 4A molecular sieves such that stirring was not impeded. The mixture was stirred 1.5 h, then partitioned between EtOAc and sat. NaHCO3 (aq). The phases were separated, and the organic phase washed with brine, dried (MgSO4), and concentrated to provide 3.96 g (95%) of 2-cyano-4-ethyl-hex-2-enoic acid benzyl ester as a colorless oil. 1H NMR (CDCl3) δ 7.39 (m, 6H), 5.28 (s, 2H), 2.60 (m, 1H), 1.62 (m, 2H), 1.40 (m, 2H), 0.88 (t, J=7.6 Hz, 6H). 13C NMR δ 168.69, 161.40, 135.01, 128.90, 128.82, 128.50, 114.11, 109.94, 68.07, 46.35, 27.30, 11.95. IR (neat) 2233, 1729 cm−1. LRMS: m/z 256.1 (M−1). Anal. Calcd for C16H19NO2: C, 74.68; H, 7.44; N, 5.44. Found: C, 74.75; H, 7.52; N, 5.50.

reactant | 2-ethylbutyraldehyde | 16.2 mmol, 2.0 mL | C(C)C(C=O)CC | C6H12O
reactant | benzyl cyanoacetate | 16.2 mmol, 2.85 g | C(#N)CC(=O)OCC1=CC=CC=C1 | C10H9NO2
reactant | acetic acid | 1.62 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | piperidine | 1.62 mmol, 0.16 mL | N1CCCCC1 | C5H11N
product | 2-cyano-4-ethyl-hex-2-enoic acid benzyl ester | 3.96 g, 95% | C(C1=CC=CC=C1)OC(C(=CC(CC)CC)C#N)=O | C16H19NO2
